US09290467B2
C) (S)-3-(4-Allyloxy-3-chloro-phenyl)-2-amino-propionic acid methyl ester
In a 10 mL round-bottomed flask, (S)-methyl 3-(4-(allyloxy)-3-chlorophenyl)-2-(tert-butoxycarbonylamino)propanoate (90 mg, 243 μmol, Eq: 1.00) was combined with formic acid (1.12 g, 933 μL, 24.3 mmol, Eq: 100) and stirred at RT for 3 h. The crude reaction mixture was concentrated in vacuo. The reaction mixture was neutralised with 5% aqueous Na2CO3 and extracted with DCM (3×). The organic layers were combined and dried over Na2SO4 and concentrated in vacuo to yield a colorless oil (68 mg; 100%). m/z=270.3 [M+H]+; 292.1 [M+Na]+.

reactant | (S)-methyl 3-(4-(allyloxy)-3-chlorophenyl)-2-(tert-butoxycarbonylamino)propanoate | 243 μmol, 90 mg | C(C=C)OC1=C(C=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C)Cl | C18H24ClNO5
reactant | formic acid | 24.3 mmol, 933 μL, 1.12 g | C(=O)O | CH2O2
product | (S)-3-(4-Allyloxy-3-chloro-phenyl)-2-amino-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)OCC=C)Cl)N)=O | C13H16ClNO3
